US04087403
The latter compound is added dropwise to the reaction mixture which is maintained at 175° C. The mixture slowly darkens during this addition which is conducted over a period of about 2 hours. The reaction vessel is then allowed to cool and the reaction mixture purified. A total of 48 grams of ethyl bromide is collected, indicating the formation of about a 100% yield of ethyl p-methoxyphenylphenylphosphinate. The latter is hydrolyzed (by refluxing with concentrated HCl) to p-methoxyphenylphenylphosphinic acid and then demethylated by treatment with boron tribromide to give the desired p-hydroxyphenylphenylphosphinic acid, the starting material of Example 2.

reactant | HCl | Cl | ClH
reactant | p-methoxyphenylphenylphosphinic acid | COC1=CC=C(C=C1)P(O)(=O)C1=CC=CC=C1 | C13H13O3P
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | p-hydroxyphenylphenylphosphinic acid | OC1=CC=C(C=C1)P(O)(=O)C1=CC=CC=C1 | C12H11O3P
